US03972880
By reacting 1,2-dihydro-9-hydroxy-7-(3-methyl-2-octyl)-2,2,4,4-tetramethyl-4H-thieno-[2,3-c][1]benzopyran with γ-pyrrolidinobutyric acid hydrobromide salt and dicyclohexylcarbodiimide according to the method of Example 10 there is obained obtained -dihydro-7-(3-methyl-2-octyl)-9-[4-(pyrrolidino)butyryloxy]-2,2,4,4-tetramethyl-4H-thieno-[ 2,3-c][1]benzopyran hydrobromide.

reactant | 1,2-dihydro-9-hydroxy-7-(3-methyl-2-octyl)-2,2,4,4-tetramethyl-4H-thieno-[2,3-c][1]benzopyran | OC1=CC(=CC2=C1C1=C(C(O2)(C)C)SC(C1)(C)C)C(C)C(CCCCC)C | C24H36O2S
reactant | γ-pyrrolidinobutyric acid hydrobromide salt | Br.N1(CCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | dihydro-7-(3-methyl-2-octyl)-9-[4-(pyrrolidino)butyryloxy]-2,2,4,4-tetramethyl-4H-thieno-[ 2,3-c][1]benzopyran hydrobromide | Br.CC(C(C)C1=CC2=C(C3C(C(O2)(C)C)SC(C3)(C)C)C(=C1)OC(CCCN1CCCC1)=O)CCCCC | InChI=1S/C32H51NO3S.BrH/c1-8-9-10-14-22(2)23(3)24-19-26(35-28(34)15-13-18-33-16-11-12-17-33)29-25-21-31(4,5)37-30(25)32(6,7)36-27(29)20-24;/h19-20,22-23,25,30H,8-18,21H2,1-7H3;1H
